US09447025B2
A solution of 1-(3-aminobicyclo[1.1.1]pentan-1-yl)ethanone (1 mmol) in 0.5 mL of chloroform is added to a stirred mixture of m-chloroperbenzoic acid (1.5 mmol) in 2 mL of chloroform at room temperature. The solution is stirred in the dark for 24 h. The mixture is filtered, and the filtrate is washed with 10% sodium bicarbonate and then water. The organic layer is dried over magnesium sulfate and concentrated. The residue is purified by a flash chromatography on silica gel (EtOAc/hexnaes) to give 3-aminobicyclo[1.1.1]pentan-1-yl acetate.

reactant | 1-(3-aminobicyclo[1.1.1]pentan-1-yl)ethanone | 1 mmol | NC12CC(C1)(C2)C(C)=O | C7H11NO
reactant | m-chloroperbenzoic acid | 1.5 mmol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 0.5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-aminobicyclo[1.1.1]pentan-1-yl acetate | C(C)(=O)OC12CC(C1)(C2)N | C7H11NO2
